US04442300
1-[3',5'-Bis-(4-pivaloyloxybenzoyloxy)phenyl]-2-bromoethanol
To a solution of 7.8 g (0.012 moles) of 3',5'-bis-(4-pivaloyloxybenzoyloxy)-2-bromoacetophenone in 200 ml of dioxane and 40 ml of water was added portionally 0.45 g (0.012 moles) of NaBH4 dissolved in 30 ml of water. After each addition pH was adjusted with 1 N HCl so that the pH of the reacting mixture never exceeded pH 7. The mixture was stirred at ambient temperature for 1 h, whereafter the solution was evaporated to dryness and the residue taken up in diethyl ether. The ether phase was washed with water, dried over MgSO4 and then evaporated to dryness to yield a crystalline residue. The identity of the product was confirmed with NMR.

reactant | 3',5'-bis-(4-pivaloyloxybenzoyloxy)-2-bromoacetophenone | 0.012 moles, 7.8 g | C(C(C)(C)C)(=O)OC1=CC=C(C(=O)OC=2C=C(C=C(C2)OC(C2=CC=C(C=C2)OC(C(C)(C)C)=O)=O)C(CBr)=O)C=C1 | C32H31BrO9
reactant | NaBH4 | 0.012 moles, 0.45 g | [BH4-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
solvent | water | 40 ml | O | H2O
solvent | water | 30 ml | O | H2O
product | 1-[3',5'-Bis-(4-pivaloyloxybenzoyloxy)phenyl]-2-bromoethanol | C(C(C)(C)C)(=O)OC1=CC=C(C(=O)OC=2C=C(C=C(C2)OC(C2=CC=C(C=C2)OC(C(C)(C)C)=O)=O)C(CBr)O)C=C1 | C32H33BrO9
